US06455531B1
4-(Naphthalen-2-yloxy)piperidine-1-carboxylic Acid tert-Butyl Ester
To a stirred solution of 2-naphthol (2.9 g) and 4-hydroxypiperidine-1-carboxylic acid tert-butyl ester (4 g) in tetrahydrofuran (30 ml) at 0° C. was added triphenylphosphine (5.2 g) and diethyl azodicarboxylate (3.2 ml). The reaction was allowed to warm to room temperature and stirred for 16 h. The solvent was removed in vacuo and the slurry taken up in EtOAc (30 ml) and washed with aqueous sodium hydroxide (1M, 2×30 ml), water (30 ml) and brine (30 ml). The organic extract was diluted with hexane (50 ml), and the precipitates were removed by filtration, and the filtrate dried over magnesium sulphate (1 g). The solvent was removed in vacuo to yield the title compound as a white solid (3.4 g).

reactant | 2-naphthol | 2.9 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | 4-hydroxypiperidine-1-carboxylic acid tert-butyl ester | 4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | triphenylphosphine | 5.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 3.2 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-(Naphthalen-2-yloxy)piperidine-1-carboxylic Acid tert-Butyl Ester | 3.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC2=CC=CC=C2C=C1 | C20H25NO3
